US04036849
Preparation of 1-[p-(chlormethylthio)phenyl]-1H-tetrazole (F)
A solution of 4.8 g. of 1-[p-(methylthio)phenyl]-1H-tetrazole in 80 ml. of methylene chloride was treated with 2.2 ml. of sulfuryl chloride in 10 ml. of methylene chloride. The solution was stirred at room temperature for 1 hour, evaporated to dryness on a steam bath, washed with hexane and recrystallized from methylene chloride to give white crystals, m.p. 115°-117° C. This product was also obtained by a similar reaction of 0.5 g. of 1-[p-(methylsulfinyl)phenyl]-1H-tetrazole and 0.18 ml. of thionyl chloride in methylene chloride.

reactant | 1-[p-(methylthio)phenyl]-1H-tetrazole | CSC1=CC=C(C=C1)N1N=NN=C1 | C8H8N4S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 1-[p-(methylsulfinyl)phenyl]-1H-tetrazole | CS(=O)C1=CC=C(C=C1)N1N=NN=C1 | C8H8N4OS
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-[p-(chlormethylthio)phenyl]-1H-tetrazole | ClCSC1=CC=C(C=C1)N1N=NN=C1 | C8H7ClN4S
